US06645968B2
N″-cyano-N-(6-fluoro-3-pyridinyl)guanidine
A solution of 5-amino-2-fluoropyridine and sodium dicyanamide was processed as described in Example 71A to provide the desired product.

reactant | 5-amino-2-fluoropyridine | NC=1C=CC(=NC1)F | C5H5FN2
reactant | sodium dicyanamide | [N-](C#N)C#N.[Na+]
product | N″-cyano-N-(6-fluoro-3-pyridinyl)guanidine | C(#N)N=C(NC=1C=NC(=CC1)F)N | C7H6FN5
